US08492582B2
Thioanisole (2.3 mL) and trifluoroacetic acid (7.7 mL) were added to the obtained tert-butyl 2-(2-(benzyloxy)-5-(oxazol-5-yl)benzamido)-4-phenylbenzoate (0.21 g), followed by stirring at room temperature for 9 hours and 40 minutes. The solvent was evaporated under reduced pressure, and methanol was added to the residue. The solid substance was collected by filtration to obtain 0.12 g of 2-(2-hydroxy-5-(oxazol-5-yl)benzamido)-4-phenylbenzoic acid as a white solid.

reactant | Thioanisole | 2.3 mL | C1(=CC=CC=C1)SC | C7H8S
reactant | trifluoroacetic acid | 7.7 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 2-(2-(benzyloxy)-5-(oxazol-5-yl)benzamido)-4-phenylbenzoate | 0.21 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)C1=CN=CO1 | C34H30N2O5
product | 2-(2-hydroxy-5-(oxazol-5-yl)benzamido)-4-phenylbenzoic acid | 0.12 g | OC1=C(C(=O)NC2=C(C(=O)O)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)C1=CN=CO1 | C23H16N2O5
